US06200254B1
A Parr bottle was charged with 3,14-dimethylcyclohexadeca-4E,12E-dien-one (0.203 g, 0.77 mmole), ethyl acetate (36 ml), ethanol (4 ml) and 5% palladium-on-carbon (0.050 g). The vessel was pressurized to 43 psi with hydrogen gas and the solution was shaken vigorously for 2 hours. The pressure was brought down to atmospheric pressure and the reaction mixture was filtered through a pad of Celite and the solvents were removed by distillation under reduced pressure to afford 3,14-dimethylcyclohexadecan-1-one (0.206 g, 100% yield). C18H34O (266.47 g/mole). 1HNMR (500 MHz, CDCl3): 0.861 (dd, 3H), 0.909 (dd, 3H), 1.38-1.03 (m, 20H), 1.62-1.38 (m, 3H), 2.10-1.98 (m, 1H), 2.18-2.11 (m, 1H), 2.43-2.33 (m, 3H) ppm. 13CNMR (125 MHz, CDCl3): 20.44, 20.80, 24.15, 25.21, 26.47, 26.50, 26.76, 27.06, 27.47, 29.10, 29.45, 31.31, 34.50, 35.61, 40.24, 50.48, 211.86 ppm. IR (νmax(cm−1)): 2930(s), 2910(s), 2856(s), 1713(s), 1460(s), 1412(w), 1375(m), 1146(w), 1096(w), 1059(w). MS (m/z): 266(M+), 251, 237, 223, 208, 152, 139, 125, 109, 97, 85, 69, 55, 41.

reactant | 3,14-dimethylcyclohexadeca-4E,12E-dien-one | 0.77 mmole, 0.203 g | CC\1CC(CCC(/C=C/CCCCCC/C=C1)C)=O | C18H30O
reactant | ethyl acetate | 36 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 0.050 g | [Pd] | Pd
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3,14-dimethylcyclohexadecan-1-one | 0.206 g, 100% yield | CC1CC(CCC(CCCCCCCCCC1)C)=O | C18H34O
